US06825191B2
Step 3: Synthesis of ethyl [(((1S,2S)-2-(((benzyloxy)carbonyl)amino)-cyclohexyl)methyl)(t-butoxycarbonyl)amino]acetate
1.0 g (15.6 mmol) of ethyl [(((1S,2S)-2-(((benzyloxy)carbonyl)amino)cyclohexyl)methyl)amino]acetate was dissolved in 20 ml of dichloromethane. 0.75 g (3.4 mmol) of di-t-butyl dicarbonate and 0.6 ml (4.3 mmol) of triethylamine were added to the obtained solution, and they were stirred at room temperature for 2 hours. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | ethyl [(((1S,2S)-2-(((benzyloxy)carbonyl)amino)cyclohexyl)methyl)amino]acetate | 15.6 mmol, 1.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](CCCC1)CNCC(=O)OCC | C19H28N2O4
reactant | di-t-butyl dicarbonate | 3.4 mmol, 0.75 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 4.3 mmol, 0.6 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | ethyl [(((1S,2S)-2-(((benzyloxy)carbonyl)amino)-cyclohexyl)methyl)(t-butoxycarbonyl)amino]acetate | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](CCCC1)CN(C(=O)OC(C)(C)C)CC(=O)OCC | C24H36N2O6
